US05827890
a) 5-(4-Chlorophenyl)-5-oxo-pentanoic acid
To a stirred solution of aluminium bromide (300 g, 1.12 mol) in dry chlorobenzene (700 ml) at 4° C. was added a solution of glutaric anhydride (60 g, 0.526 mol) in chlorobenzene (300 ml). The resulting orange/yellow suspension was allowed to warm to RT, stirred overnight, then carefully poured into an ice cold stirred solution of 10% HCl (aqueous 1400 ml). The resulting white suspension was poured into EtOAc (900 ml) and the layers separated. The aqueous layer was washed with EtOAc (2×250 ml). The combined organic layer was washed with brine (1×400 ml), dried (MgSO4) and the solvent removed in vacuo to give a yellow/white solid (115.74 g). Recrystallization from toluene/hexane (2:1, 750 ml) gave the title compound (95.14 g) as off white crystals.

reactant | aluminium bromide | 1.12 mol, 300 g | [Br-].[Al+3].[Br-].[Br-]
reactant | glutaric anhydride | 0.526 mol, 60 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | HCl | 1400 ml | Cl | ClH
reactant | EtOAc | 900 ml | CCOC(=O)C | C4H8O2
solvent | chlorobenzene | 700 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 300 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 5-(4-Chlorophenyl)-5-oxo-pentanoic acid | 115.74 g | ClC1=CC=C(C=C1)C(CCCC(=O)O)=O | C11H11ClO3
